US07981903B2
To N,N-dimethyl-3[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-3-oxo-1-propanamine (1.52 g, 5.4 mmol) in MeOH (50 mL) was added iron (III) chloride (0.220 g, 1.35 mmol, Aldrich) and activated carbon (2.0 g, Aldrich). The reaction mixture was stirred at 64° C. for 20 min before the dropwise addition of hydrazine hydrate (1.2 mL, 37.5 mmol, Aldrich) over 5 min. The reaction was kept stirring at 64° C. for additional 12 h. Filtration removed the solids and the filtrate was concentrated and purified via chromatography on SiO2 (0-10% 2 M NH3 in MeOH/DCM) to afford 1-[3-(dimethylamino)propanoyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine (0.270 g, 19% Yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.72 (s, 1 H), 6.63 (s, 1 H), 3.95-4.15 (m, 2 H), 3.81 (s, 3 H), 3.76 (s, 2 H), 3.10 (t, J=8.43 Hz, 2 H), 2.83-2.96 (m, 2 H), 2.70 (t, J=7.15 Hz, 2 H), 2.41 (s, 6 H).

reactant | N,N-dimethyl-3[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-3-oxo-1-propanamine | 5.4 mmol, 1.52 g | CN(CCC(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC)C | C14H19N3O4
reactant | hydrazine hydrate | 37.5 mmol, 1.2 mL | O.NN
solvent | MeOH | 50 mL | CO | CH4O
catalyst | iron (III) chloride | 1.35 mmol, 0.220 g | [Fe](Cl)(Cl)Cl
product | 1-[3-(dimethylamino)propanoyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | 0.270 g, 19% Yield | CN(CCC(=O)N1CCC2=CC(=C(C=C12)N)OC)C | C14H21N3O2
